US04906286
To a stirred solution of 20.0 g (0.14 mole) of 2-chloro-4-fluorophenol and 6.64 g (0.17 mole) of sodium hydroxide in 100 mL of water at 15° C. was added 17.7 g (0.19 mole) of methyl chloroformate. After complete addition, the mixture was stirred for 15 minutes then extracted with ethyl acetate. The organic phase was washed with a 1N sodium hydroxide solution, then dried over anhydrous magnesium sulfate. The dried extract was filtered, and the filtrate evaporated under reduced pressure to provide methyl (2-chloro-4-fluorophenyl) carbonate as a solid.

reactant | 2-chloro-4-fluorophenol | 0.14 mole, 20.0 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | sodium hydroxide | 0.17 mole, 6.64 g | [OH-].[Na+]
reactant | methyl chloroformate | 0.19 mole, 17.7 g | ClC(=O)OC | C2H3ClO2
solvent | water | 100 mL | O | H2O
product | methyl (2-chloro-4-fluorophenyl) carbonate | C(OC)(OC1=C(C=C(C=C1)F)Cl)=O | C8H6ClFO3
